US04742052
A solution of 1-(di-p-anisylmethyl)-3-ethenyl-4-acetoxy-2-azetidinone (3.80 g) and mercuric acetate (3.20 g) in tetrahydrofuran (10 ml) and water (4 ml) was stirred for 1 hour at room temperature. The reaction mixture was treated with 1N sodium hydroxide (9 ml) at 0° C. and then a solution of sodium borohydride (0.4 g) in 1N aqueous sodium hydroxide. After stirring at the same temperature for 5 to 6 minutes, the reaction mixture was neutralized with dilute hydrochloric acid, diluted with diethyl ether and filtered to remove any insoluble materials over Cerite. The filtrate was extracted with diethyl ether and the ether extract was washed successively with aqueous sodium bicarbonate and water, dried over anhydrous sodium sulfate and evaporated to give an oily residue which was then purified by silica gel chromatography to give 1-(di-p-anisylmethyl)-3-(1-hydroxyethyl)-4-acetoxy-2-azetidinone.

reactant | 1-(di-p-anisylmethyl)-3-ethenyl-4-acetoxy-2-azetidinone | 3.80 g | C(C1=CC=C(C=C1)OC)C(N1C(C(C1OC(C)=O)C=C)=O)CC1=CC=C(C=C1)OC | C24H27NO5
reactant | sodium borohydride | 0.4 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 4 ml | O | H2O
solvent | sodium hydroxide | 1N | [OH-].[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | sodium hydroxide | 1N, 9 ml | [OH-].[Na+]
product | 1-(di-p-anisylmethyl)-3-(1-hydroxyethyl)-4-acetoxy-2-azetidinone | C(C1=CC=C(C=C1)OC)C(N1C(C(C1OC(C)=O)C(C)O)=O)CC1=CC=C(C=C1)OC | C24H29NO6
